US04528400
Using the apparatus, catalyst and method of Examples 16-18, cyclohexane carboxylic acid and acetone in a molar ratio of 1:2.76 was introduced into the system after purging with acetone. Methyl cyclohexyl ketone was produced and identified as in Examples 16-18.

reactant | cyclohexane carboxylic acid | C1(CCCCC1)C(=O)O | C7H12O2
reactant | acetone | CC(=O)C | C3H6O
product | Methyl cyclohexyl ketone | C1(CCCCC1)C(=O)C | C8H14O
